US06103910
a) (R)-1-[6-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-pyridine-2-carbonyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 5.8 g (24.0 mmol) D-Proline benzyl ester hydrochloride and 2.0 g (12.0 mmol) pyridine-2,6-dicarboxylic acid afforded, after flash chromatography (EtOAc), 5.0 g (77%) of the title compound as a yellow oil.

reactant | D-Proline benzyl ester hydrochloride | 24.0 mmol, 5.8 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | pyridine-2,6-dicarboxylic acid | 12.0 mmol, 2.0 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[6-[(R)-2-Benzyloxycarbonyl-pyrrolidine-1-carbonyl]-pyridine-2-carbonyl]-pyrrolidine-2-carboxylic acid benzyl ester | 5.0 g, 77% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(=O)C1=NC(=CC=C1)C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1 | C31H31N3O6
